US03964896
2-Anisyl-5-(2-tolyl)-1,3,4-oxadiazole (26 g, 0.1 mole)
2-[5-(2-Anisyl)-1,3,4-oxadiazole-2-yl] benzoic acid, M.P. 157°-160° (benzene/ethanol) wt., 1.7 g (17.9%). (Found: C, 66.22, 65.42; H, 4.46, 4.46; N, 9.68, 9.97. C16H12N2O4 requires C, 64.86; H, 4.08; N, 9.46.)

reactant | 2-[5-(2-Anisyl)-1,3,4-oxadiazole-2-yl] benzoic acid | C(C=1C(=CC=CC1)OC)C1=NN=C(O1)C1=C(C(=O)O)C=CC=C1 | C17H14N2O4
solvent | benzene ethanol | C1=CC=CC=C1.C(C)O
product | 2-Anisyl-5-(2-tolyl)-1,3,4-oxadiazole | C(C=1C(=CC=CC1)OC)C=1OC(=NN1)C1=C(C=CC=C1)C | C17H16N2O2
